US07872033B2
N-[(3Z)-1-tert-butyl-5-propyl-4,5,6,7-tetrahydro-2,1-benzisothiazol-3(1H)-ylidene]-5-chloro-2-methoxybenzamide
To a solution of tert-butylamine (366 mg, 5 mmol) in anhydrous hexane (20 mL) at 0° C. was added titanium(IV) chloride (133 mg, 0.5 mmol). After 5 min, the cooling bath was removed and 4-propylcyclohexanone (140 mg, 1 mmol) was added in one portion. The resulting mixture was stirred at ambient temperature for 2 h. Then, the precipitated solid was filtered and washed with anhydrous ethyl ether. The filtrate and washings were combined and concentrated under reduced pressure. The residue was dissolved in THF (20 mL) and treated with 5-chloro-2-methoxybenzoyl isothiocyanate (190 mg, 0.83 mmol) for 1 h at room temperature. Iodine (211 mg, 0.83 mmol) was added followed by addition of MeOH (10 mL) and pyridine (1 mL). The mixture was allowed to stir at room temperature for additional 2 h and then saturated sodium bicarbonate solution and ethyl ether were added. The mixture was stirred for 30 min, the ether layer was separated and the aqueous solution was extracted with ethyl ether. The ether extracts were combined, washed with brine, dried with anhydrous MgSO4 and concentrated under reduced pressure. The residue was twice evaporated with toluene and acetonitrile and then purified by chromatography (hexane-EtOAc 1:1) to afford 70 mg of the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.85-1.02 (m, 3H), 1.29-1.53 (m, 6H), 1.68 (s, 9H), 1.90-2.07 (m, 1H), 2.19 (dd, J=15.9, 10.2 Hz, 1H), 2.78-3.01 (m, 2H), 3.09-3.26 (m, 1H), 3.72-3.84 (m, 3H), 7.11 (d, J=8.8 Hz, 1H), 7.45 (dd, J=8.8, 3.1 Hz, 1H), 7.68 (d, J=3.1 Hz, 1H); MS (DCI/NH3) m/z 421 (M+H)+. Anal. calcd for C22H29ClN2O2S.0.1H2O: C, 62.50; H, 6.96; N, 6.63. Found: C, 62.21; H, 6.99; N, 6.49.

reactant | tert-butylamine | 5 mmol, 366 mg | C(C)(C)(C)N | C4H11N
reactant | 4-propylcyclohexanone | 1 mmol, 140 mg | C(CC)C1CCC(CC1)=O | C9H16O
reactant | 5-chloro-2-methoxybenzoyl isothiocyanate | 0.83 mmol, 190 mg | ClC=1C=CC(=C(C(=O)N=C=S)C1)OC | C9H6ClNO2S
reactant | Iodine | 0.83 mmol, 211 mg | II | I2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hexane | 20 mL | CCCCCC | C6H14
catalyst | titanium(IV) chloride | 0.5 mmol, 133 mg | [Ti](Cl)(Cl)(Cl)Cl
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 10 mL | CO | CH4O
product | N-[(3Z)-1-tert-butyl-5-propyl-4,5,6,7-tetrahydro-2,1-benzisothiazol-3(1H)-ylidene]-5-chloro-2-methoxybenzamide | 70 mg | C(C)(C)(C)N1S\C(\C2=C1CCC(C2)CCC)=N/C(C2=C(C=CC(=C2)Cl)OC)=O | C22H29ClN2O2S
